US04977170
N-(3,7,11-Trimethyl-2,6,10-dodecatrienyl)nicotinamide I-85
A mixture of 2 mmol of N-(3,7,11-trimethyl-2,6,10-dodecatrienyl)amine (hereinafter abbreviated as farnesylamine), 2.2 mmol of nicotinic acid, 562 mg (2.2 mmol) of 2-chloro-1-methylpyridinium iodide, and 444 mg (4.4 mmol) of Et3N in 20 ml of CH2Cl2 is heated with stirring for 3 hours. The reaction mixture is washed twice with 20 ml of saturated aqueous NaHCO3 and twice with 20 ml of water. The mixture is dried and evaporated under reduced pressure. The residual oil is purified by silica-gel column chromatography and eluted with AcOEt to give 426 mg of the titled compound I-85.

reactant | N-(3,7,11-trimethyl-2,6,10-dodecatrienyl)amine | 2 mmol | CC(=CCN)CCC=C(CCC=C(C)C)C | C15H27N
reactant | farnesylamine | C(C=C(C)CCC=C(C)CCC=C(C)C)N | C15H27N
reactant | nicotinic acid | 2.2 mmol | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 2-chloro-1-methylpyridinium iodide | 2.2 mmol, 562 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | Et3N | 4.4 mmol, 444 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(3,7,11-Trimethyl-2,6,10-dodecatrienyl)nicotinamide | 426 mg, Yield: 65.2% | CC(=CCNC(C1=CN=CC=C1)=O)CCC=C(CCC=C(C)C)C | C21H30N2O
